US06277858B1
2-n-butyl-6-chloro-3-n-propyl-3H-thieno[2,3-d]pyrimidine-4-one
In a sulfonation flask, 0.36 g of 5-Chloro-2-(1-n-butyl-1-methoxymethyleneamino)thiophene-3-carboxylic-acid propylamide is dissolved in 20 ml of absolute THF and 0.085 g of a ca. 55% NaH dispersion is added in one portion. The mixture is stirred for 15 minutes at room temperature and 1 hour at reflux temperature. Then the solvent is removed in a water jet vacuum and the residue taken up in ethylacetate. The organic phase is washed twice with water and after drylng of the organic phase with sodium sulfate, the solvent is removed in a water jet vacuum. The resulting crude product is purified by column chromatography over silica gel (eluant:hexane/ethylacetate=5:1). Yield: 0.2 g 2-n-butyl-6-chloro-3-n-propyl-3H-thieno[2,3-d]pynimidin-4-one in the form of a slightly yellowish powder; m.p. 67-69° C.

reactant | NaH | [H-].[Na+]
reactant | 5-Chloro-2-(1-n-butyl-1-methoxymethyleneamino)thiophene-3-carboxylic-acid propylamide | 0.36 g | C(CC)NC(=O)C1=C(SC(=C1)Cl)N=C(OC)CCCC | C14H21ClN2O2S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-n-butyl-6-chloro-3-n-propyl-3H-thieno[2,3-d]pyrimidine-4-one | C(CCC)C=1N(C(C2=C(N1)SC(=C2)Cl)=O)CCC | C13H17ClN2OS
